US03971772
c. N-[2-(Tetrahydropyran-2-yloxy)ethyl]urea
A mixture of 33.2 g of 2-(tetrahydropyran-2-yloxy) ethylamine, 50 g of ice, and a solution of 35 g of potassium isocyanate in 80 ml of water is stirred well as 45.6 ml of 5N hydrochloric acid (cooled to -40°C) is added in one portion. The resulting solution is refluxed for 90 minutes, cooled, and extracted with four 150 ml portions of chloroform. The chloroform extract is dried and evaporated in vacuo to give 39.6 g of oil.

reactant | 2-(tetrahydropyran-2-yloxy) ethylamine | 33.2 g | O1C(CCCC1)OCCN | C7H15NO2
reactant | potassium isocyanate | 35 g | [N-]=C=O.[K+]
reactant | hydrochloric acid | 5N, 45.6 ml | Cl | ClH
solvent | water | 80 ml | O | H2O
product | N-[2-(Tetrahydropyran-2-yloxy)ethyl]urea | 39.6 g | O1C(CCCC1)OCCNC(=O)N | C8H16N2O3
